US09382253B2
Step 1: 2-Bromo-3-methoxymethoxyphenylamine
20.0 g (500 mmol) of sodium hydride (60% by weight in mineral oil) are added in portions to a solution of 94.0 g (500 mmol) of 3-amino-2-bromophenol [100367-36-0] in 1000 ml of THF, and the mixture is stirred until the evolution of gas is complete. 38.0 ml (500 mmol) of methoxymethyl chloride [107-30-2] are then added dropwise, and the mixture is stirred at 60° C. for a further 6 h. After cooling, the THF is removed in vacuo, the residue is taken up in 1000 ml of dichloromethane, the organic phase is washed twice with 300 ml of 0.1N NaOH each time, once with 300 ml of saturated sodium chloride solution, dried over potassium carbonate, and the solvent is removed in vacuo. Yield: 112.6 g (485 mmol), 97%. Purity: 99.0% (NMR).

reactant | sodium hydride | 500 mmol, 20.0 g | [H-].[Na+]
reactant | 3-amino-2-bromophenol | 500 mmol, 94.0 g | NC=1C(=C(C=CC1)O)Br | C6H6BrNO
reactant | methoxymethyl chloride | 500 mmol, 38.0 ml | COCCl | C2H5ClO
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | 2-Bromo-3-methoxymethoxyphenylamine | BrC1=C(C=CC=C1OCOC)N | C8H10BrNO2
